US09303007B2
To a pressure flask containing a mixture of (1R,3S,5R)-tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (2.0 g, 5.3 mmol) and bis(pinacolato)diboron (2.69 g, 10.6 mmol) in 1,4-dioxane (50 mL) was added potassium acetate (0.78 g, 7.9 mmol). The reaction flask was degassed in vacuo for 10 min and purged with nitrogen. Pd(Ph3P)4 (305 mg, 0.264 mmol) was added to the reaction mixture and the flask was capped and heated with an oil bath at 85° C. (bath temperature) for 16 hours. The reaction mixture was concentrated in vacuo and the crude material was partitioned between CH2Cl2 (150 mL) and an aqueous medium (50 mL water+10 mL saturated NaHCO3 solution). The aqueous layer was extracted with CH2Cl2 and the combined organic phase was dried (Na2SO4), filtered and concentrated in vacuo. The resulting material was purified with flash chromatography (sample was dry loaded on silica gel and eluted with 20-100% ethyl acetate/hexanes) to provide (1R,3S,5R)-tert-butyl 3-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (1.74 g, 77% yield) as white foam. An aliquot of the collected material was further purified by preparative HPLC (C-18/30-100% CH3CN-water+0.1% NH4OAc). LC-MS retention time 1.78 min; calcd. for C23H32BN32 425.25. found m/z 426.21 [M+H]+. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min and an analysis time of 4 min where Solvent A was 5% acetonitrile/95% water/10 mmol ammonium acetate and Solvent B was 95% acetonitrile/5% water/10 mmol ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode 1H NMR (500 MHz, MeOD) δ ppm 7.94 (s, 1H), 7.61 (d, J=7.9 Hz, 1H), 7.41-7.56 (m, 1H), 4.83 (br s, 1H), 3.64 (d, J=1.2 Hz, 1H), 2.51-2.70 (m, 1H), 2.33 (dt, J=13.4, 6.6 Hz, 1H), 1.67-1.84 (m, J=8.5, 6.10, 5.8, 5.8 Hz, 1H), 1.39-1.59 (br s, 3H), 1.37 (s, 12H), 1.10 (br s, 6H), 0.88 (dt, J=8.2, 5.8 Hz, 1H), 0.66 (br s, 1H).

reactant | (1R,3S,5R)-tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 5.3 mmol, 2.0 g | BrC=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1 | C17H20BrN3O2
reactant | bis(pinacolato)diboron | 10.6 mmol, 2.69 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 7.9 mmol, 0.78 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.264 mmol, 305 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,3S,5R)-tert-butyl 3-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 1.74 g, 77% yield | CC1(OB(OC1(C)C)C=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1)C | C23H32BN3O4
